US09427475B2
Step A: benzyl 6-[bis(2-tert-butoxy-2-oxoethyl)amino]-6-oxohexanoate
To a stirred solution of 6-(benzyloxy)-6-oxohexanoic acid (1.5 g, 6.35 mmol) in DMF (50 mL) at room temperature was added DIPEA (2.218 mL, 12.70 mmol), HOBt (1.945 g, 12.7 mmol), EDC (2.434 g, 12.7 mmol) and di-tert-butyl 2,2′-iminodiacetate (2.34 g, 9.52 mmol). After stirring at room temperature for 16 hours, the reaction mixture was diluted with H2O (30 mL) and extracted with CH2Cl2 (2×30 mL). The combined organic phase was washed with brine, dried over Na2SO4 and concentrated. The residue was purified by flash chromatography on silica gel (80 g), eluting with 0-40% EtOAc in hexane, to give the title compound. LC-MS Method A: m/e=464.04 [M+1]; Rt=2.47 min. 1H NMR (CDCl3) δ 7.32 (m, 5H), 5.07 (s, 2H), 4.02 (s, 2H), 3.96 (s, 2H), 2.35 (s, 2H), 2.26 (s, 2H), 1.66 (s, 4H), 1.42-1.44 (bs, 18H).

reactant | 6-(benzyloxy)-6-oxohexanoic acid | 6.35 mmol, 1.5 g | C(C1=CC=CC=C1)OC(CCCCC(=O)O)=O | C13H16O4
reactant | DIPEA | 12.70 mmol, 2.218 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 12.7 mmol, 1.945 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 12.7 mmol, 2.434 g
reactant | di-tert-butyl 2,2′-iminodiacetate | 9.52 mmol, 2.34 g | N(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C12H23NO4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | H2O | 30 mL | O | H2O
product | benzyl 6-[bis(2-tert-butoxy-2-oxoethyl)amino]-6-oxohexanoate | C(C)(C)(C)OC(CN(C(CCCCC(=O)OCC1=CC=CC=C1)=O)CC(OC(C)(C)C)=O)=O | C25H37NO7
